US05134111
(b) Preparation of 8-ethyl-2-methoxy-1-methoxymethoxynaphthalene
220 g of 8-ethyl-1-methoxymethoxy-2-naphthalenecarbaldehyde was dissolved in 1540 ml of dichloromethane, to which 186 g of 80 to 85% m-chloroperbenzoic acid was added portion by portion. The reaction solution generated heat and was gently refluxed. The reaction solution was ice-cooled, to which 200 ml of a saturated sodium thiosulfate aqueous solution was added. The precipitated insoluble matters were removed by filtration and washed with dichloromethane. The filtrate was washed with a saturated sodium hydrogencarbonate aqueous solution and a saturated saline solution and dried with anhydrous magnesium sulfate. After removal of the solvent by distillation, 254 g of the resultant residue was dissolved in 500 ml of methanol, to which 89 g of potassium hydroxide preliminarily dissolved in 200 ml of water was added, followed by refluxing for 20 minutes. The reaction solution was poured into 700 mo of cooled 2N hydrochloric acid and extracted with ethyl acetate. The resultant organic phase was washed with a saturated saline solution and dried with anhydrous magnesium sulfate, from which the solvent was distilled off. 278 g of the resultant residue was dissolved in 600 ml of N,N-dimethylformamide, to which 500 g of anhydrous potassium carbonate and 256 g of methyl iodide were added, followed by agitation at 60° C. for 2 hours. The insoluble matters were filtered off and washed with ethyl acetate. Water was added to the resultant filtrate, which was extracted with ethyl acetate. The resultant organic phase was washed with a saturated saline solution and dried with anhydrous magnesium sulfate. After removal of the solvent by distillation, the resultant residue was purified by silica gel column chromatography to obtain 166 g of the caption compound as a yellow oily substance.

reactant | 8-ethyl-1-methoxymethoxy-2-naphthalenecarbaldehyde | 220 g | C(C)C=1C=CC=C2C=CC(=C(C12)OCOC)C=O | C15H16O3
reactant | m-chloroperbenzoic acid | 186 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 200 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 1540 ml | ClCCl | CH2Cl2
product | 8-ethyl-2-methoxy-1-methoxymethoxynaphthalene | 166 g | C(C)C=1C=CC=C2C=CC(=C(C12)OCOC)OC | C15H18O3
